US04400461
A mixture of 25 g (0.17 mole) of phthalic anhydride and 100 ml of toluene was prepared. To this mixture was added a solution of approximately 25.5 g (0.17 mole) of adamantamine in 100 ml of toluene. The resulting mixture was stirred at room temperature for 15 hours. The solid was collected by vacuum filtration and dried in a vacuum oven at room temperature to yield approximately 49 g of N-adamantylphthalamic acid.

reactant | phthalic anhydride | 0.17 mole, 25 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | adamantamine | 0.17 mole, approximately 25.5 g | C1C2CC3CC1CC(C2)(C3)N | C10H17N
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-adamantylphthalamic acid | approximately 49 g | C12(CC3CC(CC(C1)C3)C2)NC(C=2C(C(=O)O)=CC=CC2)=O | C18H21NO3
